US05262426
N,N-dicyclopentyl-4-[(4H-imidazo[4,5-b]pyridin-4-yl)methyl]-3-methoxybenzamide
To a stirred solution of imidazo[4,5-b]pyridine (350 mg, 2.94 mmol) in N,N-dimethylformamide (25 mL), sodium hydride (118 mg, 60% dispersion in mineral oil, 2.94 mmol) was added. After stirring for 2 hr, 4-bromomethyl-3-methoxy-N,N-dicyclopentyl benzamide (1.4 g, 3.57 mmol) was added in small installments over 10 min. The reaction mixture was stirred under argon at 25° C. After 18h, the reaction was quenched by adding acetic acid (0.5 mL) and the solvent was removed under reduced pressure at <45° C. The crude mixture (2 g) was chromatographed (silica gel, CH2Cl2 -MeOH-NH4OH 90-10-1) to give the title compound. (145 mg, 12%) mp 223°-224° C.; Anal calcd. for C25H30N4O2.1.0H2O: C, 68.78; H, 7.39; N, 12.83. Found C, 68.88; H, 7.13; N, 12.55.

reactant | imidazo[4,5-b]pyridine | 2.94 mmol, 350 mg | N1C=NC2=NC=CC=C21 | C6H5N3
reactant | sodium hydride | 2.94 mmol, 118 mg | [H-].[Na+]
reactant | 4-bromomethyl-3-methoxy-N,N-dicyclopentyl benzamide | 3.57 mmol, 1.4 g | BrCC1=C(C=C(C(=O)N(C2CCCC2)C2CCCC2)C=C1)OC | C19H26BrNO2
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | N,N-dicyclopentyl-4-[(4H-imidazo[4,5-b]pyridin-4-yl)methyl]-3-methoxybenzamide | C1(CCCC1)N(C(C1=CC(=C(C=C1)CN1C=2C(=CC=C1)N=CN2)OC)=O)C2CCCC2 | C25H30N4O2
